US07304074B2
The suspension of 2-[(6-methyl-pyridin-3-ylamino)-methylene]-malonic acid diethyl ester (24.0 g, 86.23 mmol) in diphenylether (300 mL) was heated under refluxing for 3 hrs. After cooling to room temperature, the reaction mixture was poured into nHexane (1000 mL) and the solid was collected by filtration to give 4-hydroxy-6-methyl-[1,5]naphthyridine-3-carboxylic acid ethyl ester (8.3 g, 42%). HR-MS-EI (+) m/e calcd for C12H12N2O3 (M+) 232.0848. found 232.0846.

reactant | 2-[(6-methyl-pyridin-3-ylamino)-methylene]-malonic acid diethyl ester | 86.23 mmol, 24.0 g | C(C)OC(C(C(=O)OCC)=CNC=1C=NC(=CC1)C)=O | C14H18N2O4
solvent | diphenylether | 300 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 4-hydroxy-6-methyl-[1,5]naphthyridine-3-carboxylic acid ethyl ester | 8.3 g, 42% | C(C)OC(=O)C=1C=NC2=CC=C(N=C2C1O)C | C12H12N2O3
